US04665179
3-[5-amino-2-(2-aminoethyl)-aminophenylsulphonyl]-propionic acid
27.0 g of 3-[2-(2-aminoethyl)-amino-5-nitrophenylsulphonyl]-propionic acid are suspended in 150 ml of water and 150 ml of ethanol. In an autoclave 1 g of nickel is added to the suspension, 60-70 bar of hydrogen are injected, and the temperature is raised to 60° C. Stirring is continued for some time until no further hydrogen is absorbed. After letting down, the resultant solution is clarified at 70° C. with 1 g of activated charcoal, the clarification residue is washed with 20 ml of hot water, and the combined filtrates are reacted as per Example 10.

reactant | 3-[2-(2-aminoethyl)-amino-5-nitrophenylsulphonyl]-propionic acid | 27.0 g | NCCC1=C(C=C(C=C1N)[N+](=O)[O-])S(=O)(=O)CCC(=O)O | C11H15N3O6S
reactant | hydrogen | [H][H] | H2
solvent | water | 150 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | nickel | 1 g | [Ni] | Ni
product | 3-[5-amino-2-(2-aminoethyl)-aminophenylsulphonyl]-propionic acid | NC=1C=C(C(=C(C1)S(=O)(=O)CCC(=O)O)CCN)N | C11H17N3O4S
